.subckt IKW25N120H3 C G E
E1 N001 0 C E 1
E2 N002 0 G E table=(5 0,7 96.2m,9 0.465,11 1.026,13 1.693,15 2.456,17 3.53,20 5.45)
E3 U1 0 N003 0 31.189
D1 N003 N002 Ideal
R1 N001 N003 100k
R2 N003 N004 100k
D2 0 N003 Ideal
V1 0 N004 0.87
R3 U1 U2 R=10k
E4 UCgc 0 C G table=(0 8,76m 7,0.15 6,0.23 5,0.38 4,0.76 3,2.35 2,13.26 1,16.93 0.9,22.57 0.8,25 0.75,30 0.7)
R4 UCgc 0 1meg
B1 C G I=V(UCgc)*ddt(V(C,G))*100p IC=0 ;Tripdt=0.1n Tripdv=1m
C1 G E 1335p
E5 UCce 0 C E table=(0 5,76m 6,0.15 7,0.23 7,0.38 6.5,0.76 5.5,2.35 4.5,13.26 2.4,16.93 2.2,22.57 2,25 1.8,30 1.7)
R5 UCce 0 1meg
B2 U3 0 V=V(UCce)*ddt(V(C,E))*10p IC=0 ;Tripdt=1n Tripdv=1m
R7 U3 U4 R=10k
B3 C E I=V(U2)+V(U4)
C2 U2 0 7p
C3 U4 0 5p
.model Ideal D(Ron=0 Roff=1g Vfwd=0)
* R=if(V(G,E)>5,10k,10k)
* R=IF(V(G,E)>5&ddt(V(C,E))>=0,10k,10k)
.ends IKW25N120H3